US04666899
[(6R,7R)-7-[(Z)-2-(t-Butoxycarbonylmethoxyimino)-2-(2-tritylaminothiazol-4-yl)acetamido]-4-diphenylmethoxycarbonylceph-3-em-3-ylmethyl]triphenylphosphonium bromide
A solution of triphenylphosphine (0.524 g) and diphenylmethyl (6R,7R)-3-bromomethyl-7-[(Z)-2-(t-butoxycarbonylmethoxyimino)-2-(2-tritylaminothiazol-4-yl)acetamido]ceph-3-em-4-carboxylate (0.985 g) [prepared according to the method of UK Patent Specification No. 2036738A] in ethyl acetate (10 ml) was stirred at ambient temperature for 16 hr. During this time, a solid was deposited. This was filtered off, washed with ethyl acetate, and dried in vacuo to give the title compound (0.848 g); νmax (CHBr3) 3385, 3280 (NH), 1790 (β-lactam), 1728, 1720 (ester), 1680, 1522 cm-1 (amide).

reactant | triphenylphosphine | 0.524 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diphenylmethyl (6R,7R)-3-bromomethyl-7-[(Z)-2-(t-butoxycarbonylmethoxyimino)-2-(2-tritylaminothiazol-4-yl)acetamido]ceph-3-em-4-carboxylate | 0.985 g | BrCC=1CS[C@H]2N(C1C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C([C@H]2NC(\C(\C=2N=C(SC2)NC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=N/OCC(=O)OC(C)(C)C)=O)=O | C51H46BrN5O7S2
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
product | [(6R,7R)-7-[(Z)-2-(t-Butoxycarbonylmethoxyimino)-2-(2-tritylaminothiazol-4-yl)acetamido]-4-diphenylmethoxycarbonylceph-3-em-3-ylmethyl]triphenylphosphonium bromide | 0.848 g | [Br-].C(C)(C)(C)OC(=O)CO\N=C(/C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)\C=1N=C(SC1)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C69H60N5O7PS2.BrH/c1-68(2,3)81-58(75)44-79-73-59(57-47-84-67(70-57)72-69(51-32-16-6-17-33-51,52-34-18-7-19-35-52)53-36-20-8-21-37-53)63(76)71-60-64(77)74-61(66(78)80-62(48-28-12-4-13-29-48)49-30-14-5-15-31-49)50(46-83-65(60)74)45-82(54-38-22-9-23-39-54,55-40-24-10-25-41-55)56-42-26-11-27-43-56;/h4-43,47,60,62,65H,44-46H2,1-3H3,(H-,70,71,72,76);1H/b73-59-;/t60-,65-;/m1./s1
